US04886814
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine
Prepared analogously to Example 3 by reaction of 11.6 g (0.043 mol) of 2-trifluoromethyl-4-bromoacetyl-thiazole with 23 g (0.086 mol) of N-(2-hydroxyethyl)-2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine. To complete the reaction the mixture is heated to boiling for 6 hours. It is then concentrated in vacuo, and the resulting residue is dissolved in 85 ml of trifluoroacetic acid and, at room temperature, 7 g (0.06 mol) of triethylsilane are added. After 90 hours the solution is poured onto ice, and concentrated ammonia is added, and the mixture is extracted several times with methylene chloride. The organic phase is dried over sodium sulphate and concentrated, and the residue is purified on a silica gel column using toluene/ethyl acetate=8/2 as eluant.

reactant | 2-trifluoromethyl-4-bromoacetyl-thiazole | 0.043 mol, 11.6 g | FC(C=1SC=C(N1)C(CBr)=O)(F)F | C6H3BrF3NOS
reactant | N-(2-hydroxyethyl)-2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine | 0.086 mol, 23 g | OCCNC(CC1=CC=C(C=C1)OCC(=O)OC)C | C14H21NO4
reactant | triethylsilane | 0.06 mol, 7 g | C(C)[SiH](CC)CC | C6H16Si
reactant | ammonia | N | H3N
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C20H23F3N2O4S
